US04435385
(l) H-(D)Phe-Cys(MBzl)-OH hydrochloride
5 g BOC-(D)Phe-Cys(MBzl)-OH are dissolved in 80 ml TFA and 10 ml H2O and allowed to stand for 45 minutes at room-temperature. The solution is diluted with ethyl-ether and 20 ml ethyl-ether/HCl (~5 N) are added, and the precipitate is filtered off, washed with ethyl ether and dried to yield the title compound:

reactant | BOC-(D)Phe-Cys(MBzl)-OH | 5 g | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)O)C(=O)OC(C)(C)C | C25H32N2O5S
reactant | H2O | 10 ml | O | H2O
reactant | ethyl-ether HCl | ~5 N, 20 ml | C(C)OCC.Cl
solvent | TFA | 80 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethyl-ether | C(C)OCC | C4H10O
product | H-(D)Phe-Cys(MBzl)-OH hydrochloride | N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)O.Cl | InChI=1S/C20H24N2O3S.ClH/c1-14-7-9-16(10-8-14)12-26-13-18(20(24)25)22-19(23)17(21)11-15-5-3-2-4-6-15;/h2-10,17-18H,11-13,21H2,1H3,(H,22,23)(H,24,25);1H/t17-,18+;/m1./s1
